US09061067B2
A mixture of 16-(4′-(5-tetrazolyl)biphenyl-4-yloxy)hexadecanoic acid methyl ester (2.87 g, 5.66 mmol), MeOH (30 ml), and a solution of NaOH (1.51 g, 37.8 mmol) in water (2.0 ml) was stirred at 70° C. After 4 d water (100 ml) and 1N HCl (50 ml) were added, and the product was filtered, washed with water, coevaporated with MeCN/PhMe, and dried under reduced pressure. 2.68 g (96%) of 16-(4′-(5-tetrazolyl)biphenyl-4-yloxy)hexadecanoic acid was obtained.

reactant | 16-(4′-(5-tetrazolyl)biphenyl-4-yloxy)hexadecanoic acid methyl ester | 5.66 mmol, 2.87 g | COC(CCCCCCCCCCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C1=NN=NN1)=O | C30H42N4O3
reactant | MeOH | 30 ml | CO | CH4O
reactant | NaOH | 37.8 mmol, 1.51 g | [OH-].[Na+]
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | water | 2.0 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 16-(4′-(5-tetrazolyl)biphenyl-4-yloxy)hexadecanoic acid | 2.68 g, 96% | N1N=NN=C1C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCCCCCCCCCC(=O)O | C29H40N4O3
